US08017611B2
A solution of di-tert-butyl azodicarboxylate (DTAD) (227 mg) in dichloromethane (1 ml) was added to a stirred solution of 4-(6-amino-5-oxazolo[5,4-b]pyridin-2-yl-3-pyridyl)phenol (100 mg), polystyrene bound triphenylphosphine (330 mg, 3 mmol/g) and 3-pyrrolidin-1-ylpropan-1-ol (64 mg) in DMF (2 ml) at room temperature under argon. The resulting suspension was stirred at room temperature for 2 hours. The mixture was filtered and the resulting solid was washed with methanol. The filtrates were combined, concentrated to dryness and diluted with DCM/TFA (1 ml: 1 ml). The mixture was stirred for 30 min and concentrated. The reaction mixture was purified by preparative HPLC using a Waters X-Bridge reverse-phase column (C-18, 5 micron silica, 19 mm diameter, 100 mm length, flow rate of 40 ml/minute) and decreasingly polar mixtures of water (containing 1% acetic acid) and Methanol as eluent. The fractions containing the desired compound were evaporated to dryness to afford 3-oxazolo[5,4-b]pyridin-2-yl-5-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]pyridin-2-amine (36 mg) as a solid. NMR Spectrum: (DMSOd6) 1.86 (bs, 4H), 2.03-2.15 (m, 2H), 3.02-3.33 (m partially hidden by H2O, 6H), 4.11 (t, 2H), 7.06 (d, 2H), 7.53 (dd, 1H), 7.68 (d, 2H), 7.77 (bs, 2H), 8.30 (dd, 1H), 8.40 (dd, 1H), 8.46 (d, 1H), 8.58 (d, 1H); Mass spectrum: M+H+ 416. The 4-(6-amino-5-oxazolo[5,4-b]pyridin-2-yl-3-pyridyl)phenol used as starting material was made as follows:

reactant | di-tert-butyl azodicarboxylate | 227 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 4-(6-amino-5-oxazolo[5,4-b]pyridin-2-yl-3-pyridyl)phenol | 100 mg | NC1=C(C=C(C=N1)C1=CC=C(C=C1)O)C=1OC2=NC=CC=C2N1 | C17H12N4O2
reactant | triphenylphosphine | 330 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-pyrrolidin-1-ylpropan-1-ol | 64 mg | N1(CCCC1)CCCO | C7H15NO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-oxazolo[5,4-b]pyridin-2-yl-5-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]pyridin-2-amine | 36 mg | N1=C(OC2=NC=CC=C21)C=2C(=NC=C(C2)C2=CC=C(C=C2)OCCCN2CCCC2)N | C24H25N5O2
